US05493030
4-Acetoxy-5-allyl-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran (0.6 g), methyl 2-bromo-3-methylbenzoate (0.92 g), silver carbonate (1.3 g), palladium acetate (0.1 g), triphenylphosphine (0.14 g) and dimethylformamide (70 ml) were heated with stirring at 100° C. for 6 hours, then stirred at ambient temperature for 18 hours. The mixture was poured into ice water and the pH adjusted to 3 by addition of 2N hydrochloric acid. The mixture was extracted with ethyl acetate, and the extract was dried and evaporated. The residue was chromatographed on silica gel, eluting with 7:3 hexane:ethyl acetate, to give methyl (E) 2-[3-(4-acetoxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-prop-1-en-1-yl]-3-methylbenzoate, mp 104°-111° C. (ethyl acetate/hexane).

reactant | 4-Acetoxy-5-allyl-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran | 0.6 g | C(C)(=O)OC1=C2C(OCC2=C(C(=C1CC=C)OC)C)=O | C15H16O5
reactant | methyl 2-bromo-3-methylbenzoate | 0.92 g | BrC1=C(C(=O)OC)C=CC=C1C | C9H9BrO2
reactant | triphenylphosphine | 0.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hydrochloric acid | 2N | Cl | ClH
catalyst | silver carbonate | 1.3 g | C([O-])([O-])=O.[Ag+2]
catalyst | palladium acetate | 0.1 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | methyl (E) 2-[3-(4-acetoxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-prop-1-en-1-yl]-3-methylbenzoate | C(C)(=O)OC1=C2C(OCC2=C(C(=C1C/C=C/C1=C(C(=O)OC)C=CC=C1C)OC)C)=O | C24H24O7
